US07491735B2
Using general procedure A, 5-amino-2-bromopyridine (Binz; v, Schickh, Chem. Ber., 68, 1935, 315-321) (308 mg, 1.78 mmol) and 1-Boc-4-piperidone (317 mg, 1.59 mmol) gave 4-(6-bromo-pyridin-3-ylamino)-piperidine-1-carboxylic acid tert-butyl ester as a yellow solid (326 mg, 58%).

reactant | 5-amino-2-bromopyridine | 1.78 mmol, 308 mg | NC=1C=CC(=NC1)Br | C5H5BrN2
reactant | 1-Boc-4-piperidone | 1.59 mmol, 317 mg | C(=O)(OC(C)(C)C)N1CCC(CC1)=O | C10H17NO3
product | 4-(6-bromo-pyridin-3-ylamino)-piperidine-1-carboxylic acid tert-butyl ester | 326 mg, 58% | C(C)(C)(C)OC(=O)N1CCC(CC1)NC=1C=NC(=CC1)Br | C15H22BrN3O2
